US09212182B2
A 40-mL vial containing 1-(4-bromo-5-fluoro-2-methoxyphenyl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide (750 mg, 1.517 mmol) and cesium carbonate (1483 mg, 4.55 mmol) was flushed with N2 and subsequently charged with DMF (2.5 mL) and 4-methoxybenzyl chloride (309 μl, 2.276 mmol). The brown slurry was stirred at rt for 5 d. The reaction was then diluted with H2O and extracted thrice with EtOAc. The organic extracts were combined, washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo to an oily orange residue. Column chromatography (25 g Snap Ultra column, 0% to 100% EtOAc/hept with 10% DCM) afforded 1-(4-bromo-5-fluoro-2-methoxyphenyl)-N-(isoxazol-3-yl)-N-(4-methoxybenzyl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide (697.8 mg, 1.136 mmol, 74.8% yield) as a yellow amorphous solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 3.71 (d, J=1.76 Hz, 6 H) 4.92 (s, 2 H) 6.74 (s, 1 H) 6.77-6.92 (m, 4 H) 7.22-7.29 (m, 2H) 7.59-7.72 (m, 2H) 7.76 (d, J=9.02 Hz, 1 H) 8.14-8.20 (m, 1 H) 8.38 (d, J=3.45 Hz, 1 H) 8.38 (s, 1 H) 8.82 (d, J=3.25 Hz, 1 H) 8.81 (s, 1 H). m/z (ESI) 614.0 (M+H)+.

reactant | 1-(4-bromo-5-fluoro-2-methoxyphenyl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide | 1.517 mmol, 750 mg | BrC1=CC(=C(C=C1F)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)NC1=NOC=C1)=O)OC | C19H13BrFN3O5S
reactant | cesium carbonate | 4.55 mmol, 1483 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMF | 2.5 mL | CN(C)C=O | C3H7NO
reactant | 4-methoxybenzyl chloride | 2.276 mmol, 309 μl | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | H2O | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(4-bromo-5-fluoro-2-methoxyphenyl)-N-(isoxazol-3-yl)-N-(4-methoxybenzyl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide | 1.136 mmol, 697.8 mg, 74.8% yield | BrC1=CC(=C(C=C1F)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)N(CC1=CC=C(C=C1)OC)C1=NOC=C1)=O)OC | C27H21BrFN3O6S
